US07671201B2
Step B Synthesis of 3,5-dichloro-4-(2-hydroxyethoxy)phenol as an Intermediate
This compound was prepared in a manner analogous to that of Example 1 Step B, by the treatment of 16.0 grams (0.051 mole) of 2-[2,6-dichloro-4-(phenylmethoxy)phenoxy]ethan-1-ol with hydrogen gas in the presence of a catalytic amount of 10% palladium on carbon in about 400 mL of ethanol using a Parr hydrigenaton apparatus. Following the theoretical uptake of hydrogen, the reaction mixture was filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using 1:2 ethyl acetate:hexane as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 10.5 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2-[2,6-dichloro-4-(phenylmethoxy)phenoxy]ethan-1-ol | 0.051 mole, 16.0 grams | ClC1=C(OCCO)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C15H14Cl2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | about 400 mL | C(C)O | C2H6O
product | 3,5-dichloro-4-(2-hydroxyethoxy)phenol | 10.5 grams | ClC=1C=C(C=C(C1OCCO)Cl)O | C8H8Cl2O3
